US06495719B2
5-Phenylpentanoic acid (10.0 g) was dissolved in 250 mL of methanol and sparged with hydrogen chloride gas at room temperature for 15 minutes. The solvent was then removed under vacuum. Methyl 5-phenylpentanoate obtained was used in the next step without further purification.

reactant | 5-Phenylpentanoic acid | 10.0 g | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | methanol | 250 mL | CO | CH4O
product | Methyl 5-phenylpentanoate | C1(=CC=CC=C1)CCCCC(=O)OC | C12H16O2
